US05449784
A stirred solution of 2.0 grams (0.019 mole) of phenylhydrazine and 2.7 grams (0.022 mole-1.2 eq.) of TMOA in 20 mL of methanol is heated at reflux for about 1.5 hours, until the reaction to the intermediate N-phenyl-N'-(1-methoxyethylidene)hydrazine is complete. The progress of the reaction is monitored by gas chromatography (GC). After this time, the reaction mixture is cooled in an ice-water bath (0° C.) and 1.5 grams (0.022 mole-1.2 eq.) of sodium cyanate is added. Upon completion of addition, 1.3 grams (0.022 mole-1.2 eq.) of acetic acid is added dropwise. The reaction mixture is then stirred at the ice-water bath temperature for about 10 minutes, then it is allowed to warm to ambient temperature. After this time, two mL of water is added to the reaction mixture. Upon completion of addition, the reaction mixture is stirred at ambient temperature for about ten hours. The reaction mixture is concentrated under reduced pressure, yielding 4,5-dihydro-3-methyl-1-phenyl-1,2,4-triazol-5(1 H)-one.

reactant | phenylhydrazine | 0.019 mole, 2.0 grams | C1(=CC=CC=C1)NN | C6H8N2
reactant | N-phenyl-N'-(1-methoxyethylidene)hydrazine | C1(=CC=CC=C1)NN=C(C)OC | C9H12N2O
reactant | sodium cyanate | 1.5 grams | [O-]C#N.[Na+]
reactant | acetic acid | 1.3 grams | C(C)(=O)O | C2H4O2
solvent | methanol | 20 mL | CO | CH4O
solvent | water | two mL | O | H2O
product | 4,5-dihydro-3-methyl-1-phenyl-1,2,4-triazol-5(1 H)-one | CC1=NN(C(N1)=O)C1=CC=CC=C1 | C9H9N3O
